US09301951B2
Intermediate 266a: 2-(5-(diethylamino)-2-(3-iodobenzamido)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide
To a solution of 2-(2-amino-5-(diethylamino)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide (440 mg, 1.0 mmol), 3-iodobenzoic acid (248 mg, 1.0 mmol) and DIPEA (387 mg, 3.0 mmol) in DMF (5 mL) was added HATU (418 mg, 1.1 mmol). After one hour, the reaction mixture was added to EtOAc (150 mL) washed with water (5×50 mL) and saturated aqueous NaCl (25 mL), dried (Na2SO4) and concentrated. The residue was triturated with DCM (3 mL) to give a solid (718 mg) which was dried under vacuum.

reactant | 2-(2-amino-5-(diethylamino)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 1.0 mmol, 440 mg | NC1=C(C=C(C=C1)N(CC)CC)C=1C=C(C(=O)NCC2=CC(=CC=C2)C(F)(F)F)C=CN1 | C24H25F3N4O
reactant | 3-iodobenzoic acid | 1.0 mmol, 248 mg | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | DIPEA | 3.0 mmol, 387 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.1 mmol, 418 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 2-(5-(diethylamino)-2-(3-iodobenzamido)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 718 mg | C(C)N(C=1C=CC(=C(C1)C=1C=C(C(=O)NCC2=CC(=CC=C2)C(F)(F)F)C=CN1)NC(C1=CC(=CC=C1)I)=O)CC | C31H28F3IN4O2
